US04621084
6-(6-Chloro-3-methylimidazo[1,2-a]pyridin-2-yl)-2-methylaminobenzothiazole (1.68 g) was prepared in substantially the same manner as that of Example 36 from 6-chloro-3-methyl-2-[4-(3-methylthioureido)phenyl]imidazo[1,2-a]pyridine (4.4 g) and bromine (2.05 g).

reactant | 6-chloro-3-methyl-2-[4-(3-methylthioureido)phenyl]imidazo[1,2-a]pyridine | 4.4 g | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)NC(=S)NC)C | C16H15ClN4S
reactant | bromine | 2.05 g | BrBr | Br2
product | 6-(6-Chloro-3-methylimidazo[1,2-a]pyridin-2-yl)-2-methylaminobenzothiazole | 1.68 g | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC1=C(N=C(S1)NC)C=C2)C | C16H13ClN4S
